* C:\Users\apm3\Documents\UTAS Projects\Teaching\gp-shield\Hardware\Electrical\Sim\power-supply.asc
R1 N002 N001 0.01
D2 0 N002 D
Vbatt N001 0 12
R2 N003 0 10R
R3 N002 N007 10k
M1 N003 N007 N002 N002 IRF7404
D3 0 N002 BZX84C22VL
XU1 N008 0 LT1389-2.5
R4 N002 N008 10K
XU2 N009 N005 N002 0 N006 LT1017
R5 N002 N004 22k
R6 N012 0 5.6k
R7 N004 N005 7k
R8 N005 N012 3k
R9 N009 N008 1K
R10 N009 N006 40K
D1 N007 N002 TDZ6_2B
S1 N006 N007 N011 N010 MYSW
Vbatt1 N011 N010 5
.model D D
.lib C:\Users\apm3\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\apm3\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc Vbatt -10 30
* Fuse\nOCP
* Reverse\nPolarity\nProtection
* OVP (22V)
* Adjustable UVLO\n(10K trim-pot for 6V-17V)\nwith Hysteresis (10% at 10V)
* High side Switch
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=0)
* Power switch
* Load
.lib LT1389.lib
.lib LTC1.lib
.backanno
.end
